US05082847
2-Methoxyethyl (1-phenylmethyl-4-piperidyl)carbamate (9.6 g), prepared according to Preparation 3, was dissolved in ethyl acetate (100 mL). Palladium hydroxide (10% on carbon, 1 g) was added, and the mixture was stirred under hydrogen (1 bar) for 6 hours. The catalyst was removed by filtration, and the solvent evaporated to give 6.5 g of 2-methoxyethyl-4-piperidylcarbamate as an oil, which was used without further purification.

reactant | 2-Methoxyethyl (1-phenylmethyl-4-piperidyl)carbamate | 9.6 g | C1(=CC=CC=C1)CN1CCC(CC1)NC(OCCOC)=O | C16H24N2O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium hydroxide | 1 g | [OH-].[Pd+2].[OH-]
product | 2-methoxyethyl-4-piperidylcarbamate | 6.5 g | COCCOC(NC1CCNCC1)=O | C9H18N2O3
